US06211382B1
2-butyl-1,3-diaza-spiro[4.4]non-1-en4-one monohydrochloride
To 19.6 g (0.1 mol) of 1-cyano-1-n-pentanoylaminocyclopentane dissolved in 70 ml of methanol, 25 g (0,46 mol) of potassium hydroxide dissolved in 50 ml of water was added. The resulting solution was stirred and heated at 50-60° C., then under reflux conditions for 2,5 hours. The pH was decreased by the addition of 25 g of ammonium chlorid, then methanol was distilled off. The residue was extracted with 50 ml and 2×30 ml of toluene, the combined organic phases were evaporated to constant weight The residual 16 g of title compound was dissolved in 100 ml of acetone, the pH of the resulting solution was adjusted to 1-2 with hydrochloric acid solution, the mixture was crystallized, the crystals were collected by filtration to obtain 14 g of the title compound, yield 60.8%.

reactant | 1-cyano-1-n-pentanoylaminocyclopentane | 0.1 mol, 19.6 g | C(#N)C1(CCCC1)NC(CCCC)=O | C11H18N2O
reactant | potassium hydroxide | 0,46 mol, 25 g | [OH-].[K+]
reactant | ammonium chlorid | 25 g | [Cl-].[NH4+]
solvent | methanol | 70 ml | CO | CH4O
solvent | water | 50 ml | O | H2O
product | 2-butyl-1,3-diaza-spiro[4.4]non-1-en4-one monohydrochloride | 14 g, yield 60.8% | Cl.C(CCC)C1=NC2(C(N1)=O)CCCC2 | InChI=1S/C11H18N2O.ClH/c1-2-3-6-9-12-10(14)11(13-9)7-4-5-8-11;/h2-8H2,1H3,(H,12,13,14);1H
